### PR TITLE
Frechet derivative

### PR DESCRIPTION
**Pull request by Nicknamen**
I included some definitions to be discussed thoroughly

### CODE REVIEW

File: Euclidean_Space.thy [hunk 1]
```diff
@@ -1,18 +1,16 @@
 theory Euclidean_Space
-  imports Complex_Main 
-          Group_Extras
```
Comment (Nicknamen) [inline Euclidean_Space.thy:3]: This still happens in the topology file and we need to fix this! I think @AnthonyBordg would do it in 5 minutes whereas it would take long time for me and Zibo because we don't know the library well yet and we don't know what files are actually necessary for topology, but in case you don't have time let us know and we will do it

File: Euclidean_Space.thy [hunk 2]
```diff
@@ -452,14 +451,76 @@ definition has_derivative :: "('a::real_normed_vector \<Rightarrow> 'b::real_nor
...
+locale is_o =
+dom: real_normed_vector_space V add zero scale norm +
+codom: real_normed_vector_space V' add' zero' scale' norm' +
+map f A V + map g A V'
+for A :: "'a set" and V add zero scale norm V' add' zero' scale' norm' f g +
+fixes F :: "'a filter"
+assumes is_o: "\<forall> c :: real. c > 0 \<longrightarrow>
+  is_O_with A V add zero scale norm V' add' zero' scale' norm' f g F c"
+
+locale has_derivative_at_0 =
```
Comment (Nicknamen) [inline Euclidean_Space.thy:471]: The _0 is just a way to avoid name conflicts, it is not meant as anything like at_0 as in at the point 0.

File: Euclidean_Space.thy [hunk 3]
```diff
@@ -452,14 +451,76 @@ definition has_derivative :: "('a::real_normed_vector \<Rightarrow> 'b::real_nor
...
+dom: real_normed_vector_space V add zero scale norm +
+codom: real_normed_vector_space V' add' zero' scale' norm' +
+map f V V' + map f' V V'
+for V add zero scale norm V' add' zero' scale' norm' f f' +
+fixes x :: 'a
+assumes at_mem: "x \<in> V"
+and is_bounded_linear: "bounded_linear_map V add zero scale norm V' add' zero' scale' norm' f'"
+and has_derivative:
+"is_o V V' add' zero' scale' norm' V add zero scale norm
+  (\<lambda>y. codom.minus (codom.minus (f y) (f x)) (f'(dom.minus y x))) (\<lambda>y. dom.minus y x) (dom.nbhds x)"
```
Comment (Nicknamen) [inline Euclidean_Space.thy:481]: Notation part that @zibo-yang  wants to improve. I don't plan to work on that in the immediate future but any commit changing this is clearly welcome

File: Euclidean_Space.thy [hunk 4]
```diff
@@ -452,14 +451,76 @@ definition has_derivative :: "('a::real_normed_vector \<Rightarrow> 'b::real_nor
...
+dom: real_normed_vector_space V add zero scale norm +
+codom: real_normed_vector_space V' add' zero' scale' norm' +
+map f V V'
+for V add zero scale norm V' add' zero' scale' norm' f +
+assumes has_derivative:
+"\<forall> x. differentiable_at_0 V add zero scale norm V' add' zero' scale' norm' f x"
+
+definition frechet_derivative_at_0 where
+  "frechet_derivative_at_0 V add zero scale norma V' add' zero' scale' norm' f x =
+  (SOME f'. (differentiable_at_0 V add zero scale norma V' add' zero' scale' norm' f x))"
```
Comment (Nicknamen) [inline Euclidean_Space.thy:502]: I am totally not sure of this definition... I wrote it like that without really knowing what I was doing and magically it compiled! @AnthonyBordg can you please have a look?

File: Topological_Space.thy [hunk 5]
```diff
@@ -27,6 +27,9 @@ definition is_closed :: "'a set \<Rightarrow> bool"
 definition neighborhoods:: "'a \<Rightarrow> ('a set) set"
   where "neighborhoods x \<equiv> {U. is_open U \<and> x \<in> U}"
 
+definition nbhds :: "'a \<Rightarrow> 'a filter"
+  where "nbhds a = (INF S\<in>{S. is_open S \<and> a \<in> S}. principal S)"
```
Comment (Nicknamen) [inline Topological_Space.thy:31]: Again, adding a b to avoid name conflicts

File: Euclidean_Space.thy [hunk 6]
```diff
@@ -452,14 +451,76 @@ definition has_derivative :: "('a::real_normed_vector \<Rightarrow> 'b::real_nor
...
+
+fun higher_differentiable_on where
+  "higher_differentiable_on V add zero scale norma V' add' zero' scale' norm' S f 0
+  \<longleftrightarrow> continuous_map_on V (real_normed_vector_space.is_open_space V add zero norma) V'
+       (real_normed_vector_space.is_open_space V' add' zero' norm') f S"
+| "higher_differentiable_on V add zero scale norma V' add' zero' scale' norm' S f (Suc n) \<longleftrightarrow>
+    (\<forall> x \<in> S. differentiable_at_0 V add zero scale norma V' add' zero' scale' norm' f x) \<and>
+    (\<forall> v. higher_differentiable_on V add zero scale norma V' add' zero' scale' norm' S
+      ((\<lambda>x. frechet_derivative_at_0 V add zero scale norma V' add' zero' scale' norm' f x) v) n)"
```
Comment (Nicknamen) [inline Euclidean_Space.thy:511]: I guess we will also need that `at` counterpart

File: Euclidean_Space.thy (hunk 1 above)
Comment (AnthonyBordg) [reply Euclidean_Space.thy:3]: @Nicknamen Please replace `Complex_Main` with `HOL.Real`.

Comment (AnthonyBordg) [reply Euclidean_Space.thy:3]: @Nicknamen As a result you will get some errors in `Euclidean_Space.thy`. I'm trying to see how they could be fixed.

File: Euclidean_Space.thy (hunk 2 above)
Comment (AnthonyBordg) [reply Euclidean_Space.thy:471]: @Nicknamen Are you aware there are whole developments about Landau's symbols? Please see `Landau_Symbols.thy` in the main library and [Landau Symbols](https://www.isa-afp.org/entries/Landau_Symbols.html) in the AFP for more material.

Comment (Nicknamen) [reply Euclidean_Space.thy:471]: No I actually wasn't because the file is in the folder Library and I did not happen to see it (I don't understand how the main library is organized... what is the folder library?). In any case, the definition in the library is pretty much the same as mine but is not a locale and we want to use locales right?

Comment (AnthonyBordg) [reply Euclidean_Space.thy:471]: They are also nice when you want to set a particular context once and for all, including a number of parameters and assumptions, and formalize a number of definitions and lemmas in this context, since it allows you to avoid declaring this same context over and over again for each one of these definitions and lemmas.

File: Euclidean_Space.thy [hunk 7]
```diff
@@ -45,97 +43,97 @@ and triangle_eq_holds: "\<lbrakk>x \<in> V; y \<in> V\<rbrakk> \<Longrightarrow>
...
   show"\<And>F. (\<And>x. x \<in> F \<Longrightarrow> is_open_space x) \<Longrightarrow> is_open_space (\<Union>x\<in>F. x) "
-    unfolding is_open_space_def 
+    unfolding is_open_space_def
     by blast
 qed
 
 
-locale bounded_linear_map = 
-dom: real_normed_vector_space V add zero scale norm + 
+locale bounded_linear_map =
```
Comment (AnthonyBordg) [inline Euclidean_Space.thy:135]: If linear maps are stated in the context of real normed vector spaces, then the `locale bounded_linear_map` can be defined as `locale bounded_linear_map = linear_map + the "bounded" assumption`. Here, one has an example of how nested locales can be used.

File: Euclidean_Space.thy (hunk 2 above)
Comment (AnthonyBordg) [reply Euclidean_Space.thy:471]: > The _0 is just a way to avoid name conflicts, it is not meant as anything like at_0 as in at the point 0.

@Nicknamen This is extremely misleading and must be changed!

File: Euclidean_Space.thy (hunk 4 above)
Comment (AnthonyBordg) [reply Euclidean_Space.thy:502]: @Nicknamen 
Here, we just need to emulate `frechet_derivative` of `HOL-Analysis.Derivative`. Right? In particular, you may want to prove something similar to their `proposition frechet_derivative_works`.

Comment (AnthonyBordg) [reply Euclidean_Space.thy:502]: More generally, if you're not sure a definition does what it's supposed to do, then you need to find a lemma such that proving this lemma would assure you the definition is correct.

File: Euclidean_Space.thy (hunk 6 above)
Comment (Nicknamen) [reply Euclidean_Space.thy]: I am not sure I understand your comment here exactly! With the context provided by a locale you mean putting it inside a begin end or making itself a locale or something else?

File: Euclidean_Space.thy [hunk 8]
```diff
@@ -558,6 +533,22 @@ and has_derivative_hd:
...
+manifold: topological_space M is_open +
+model_space: real_normed_vector_space V add zero scale norma
+for M is_open V add zero scale norma
+
+definition (in premanifold) is_local_homeomorphism_on where
+  "is_local_homeomorphism_on U f \<longleftrightarrow>
+  homeomorphism U (ind_topology.ind_is_open M is_open U) (f ` U)
+  (ind_topology.ind_is_open V (real_normed_vector_space.is_open_space V add zero norma)  (f ` U)) f"
+
+locale topological_manifold =
```
Comment (AnthonyBordg) [inline Euclidean_Space.thy:546]: @Nicknamen 
(Topological) manifolds should be defined in a separate theory. They should have their own theory.

Comment (AnthonyBordg) [reply Euclidean_Space.thy:546]: @Nicknamen 
Moreover, manifolds should probably be part of a distinct pull request.

Comment (Nicknamen) [reply Euclidean_Space.thy:574]: Sure for both! By now I only wanted to get to the definition of smooth manifold before tomorrow so to discuss it with you and then if you believe the code is good I will polish it so to make it into a PR

File: Euclidean_Space.thy [hunk 9]
```diff
@@ -533,21 +533,62 @@ and has_derivative_hd:
...
+qed
+
+locale is_local_homeomorphism_on =
+  couple_topological_spaces +
+  fixes U f
+  assumes is_local_homeomorphism_on:
+  "homeomorphism U (ind_topology.ind_is_open X is_open U) (f ` U)
+  (ind_topology.ind_is_open X' (ind_topology.ind_is_open X' is_open' (f ` U)) (f ` U)) f"
+
+lemma comp_of_local_homeo_is_local_homeo:
```
Comment (AnthonyBordg) [inline Euclidean_Space.thy:558]: This lemma and the next one have nothing to do in `Euclidean_Space.thy` and should be in `Topological_Space.thy`.

File: Euclidean_Space.thy [hunk 10]
```diff
@@ -533,21 +533,62 @@ and has_derivative_hd:
...
 
+locale couple_topological_spaces =
+dom: topological_space X is_open +
+codom: topological_space X' is_open'
+for X is_open X' is_open'
+
 locale premanifold =
 manifold: topological_space M is_open +
 model_space: real_normed_vector_space V add zero scale norma
 for M is_open V add zero scale norma
```
Comment (AnthonyBordg) [inline Euclidean_Space.thy:544]: @Nicknamen 
In your `locale premanifold` why the model space is a real normed vector space, not an Euclidean space?

File: Euclidean_Space.thy [hunk 11]
```diff
@@ -533,21 +533,62 @@ and has_derivative_hd:
...
+   (ind_topology.ind_is_open V (real_normed_vector_space.is_open_space V add zero norma) (f ` U)) f"*)
 
 locale topological_manifold =
-premanifold + fixes atlas
-assumes mem_of_atlas_is_chart: "\<forall> x \<in> M. \<exists> U \<in> (topological_space.neighborhoods is_open x).
-  \<exists> f \<in> atlas. is_local_homeomorphism_on U f"
+premanifold + fixes atlas dom
+assumes domains_open: "\<forall> f \<in> atlas. is_open (dom f)"
+  and mem_of_atlas_is_chart: "\<forall> x \<in> M. \<exists> f \<in> atlas. x \<in> (dom f) \<and>
+  is_local_homeomorphism_on X is_open V (ind_topology.ind_is_open X' is_open' (f ` (dom f))) (dom f) f"
```
Comment (AnthonyBordg) [inline Euclidean_Space.thy:578]: @Nicknamen 
In your current formalization of topological manifolds nothing tells you that `f U` is a subset of your model space for every chart `f`. In other words, as things are currently expressed you don't require that charts take values in your model space.

File: Euclidean_Space.thy (hunk 10 above)
Comment (AnthonyBordg) [reply Euclidean_Space.thy:544]: As a result, you don't request your manifolds to be finite-dimensional.

File: Euclidean_Space.thy (hunk 11 above)
Comment (Nicknamen) [reply Euclidean_Space.thy:578]: Right my mistake... I am too used to think of structures defined on the whole type. I fixed it!

File: Euclidean_Space.thy (hunk 10 above)
Comment (Nicknamen) [reply Euclidean_Space.thy:544]: Yes that was precisely my intention. Perhaps we should discuss this on Zulip

File: Euclidean_Space.thy (hunk 11 above)
Comment (AnthonyBordg) [reply Euclidean_Space.thy:578]: @Nicknamen I will close this PR. 

@zibo-yang Please open a new PR for Euclidean spaces up to the Frechet derivative when you're ready. Manifolds should be the topic of a different PR.
